US08729263B2
To a solution of 8-methoxy-5,6-dihydroimidazo[5,1-a]isoquinolin-9-ol (196 mg, 2.27 mmol) in DCM (5.5 mL) was added triethylamine (0.38 mL, 2.72 mmol) at RT. The reaction mixture was cooled to 0° C., followed by addition of N-phenyltrifluoromethanesulfonimide (356 mg, 0.98 mmol). The reaction mixture was warmed to RT and stirred for 2 h. The reaction was quenched with aqueous sodium bicarbonate solution and extracted with DCM. The organic layer was dried over sodium sulfate, filtered and concentrated to give the crude product, which was purified on silica gel to provide 8-methoxy-5,6-dihydroimidazo[5,1-a]isoquinolin-9-yl trifluoromethanesulfonate (316 mg) MS [M+H+]=348.9.

reactant | 8-methoxy-5,6-dihydroimidazo[5,1-a]isoquinolin-9-ol | 2.27 mmol, 196 mg | COC=1C=C2CCN3C(C2=CC1O)=CN=C3 | C12H12N2O2
reactant | triethylamine | 2.72 mmol, 0.38 mL | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 0.98 mmol, 356 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | DCM | 5.5 mL | C(Cl)Cl | CH2Cl2
product | 8-methoxy-5,6-dihydroimidazo[5,1-a]isoquinolin-9-yl trifluoromethanesulfonate | 316 mg | FC(S(=O)(=O)OC1=C(C=C2CCN3C(C2=C1)=CN=C3)OC)(F)F | C13H11F3N2O4S
